US06664409B1
Synthesis of 1-Ferrocenyl-I-methyl-1,3-butadiene
72 mg (3.0 mmole) of magnesium metal was placed in a 50 ml round bottom flask. 228 mg (1.0 mmole) of ferrocenyl methyl ketone and 181.5 mg (1.5 mmole) of allyl bromide were dissolved in 15 ml of THF. The resulting mixture was poured into the round bottom flask containing the magnesium metal while stirring at room temperature for two hours. After two-hour stirring, the cover of the flask was opened, and the liquid portion of the reaction mixture was introduced into a silica gel column, which had been wetted with n-hexane. All the liquid migrated into the silica gel, and the column was placed still for 24 hours. Next, the column was eluated with n-hexane. After evaporating the solvent from the eluate collected from the elution, 230 mg (0.91 mmole) of a purified title product was obtained with a yield of 91%.

reactant | magnesium | 3.0 mmole, 72 mg | [Mg] | Mg
reactant | ferrocenyl methyl ketone | 1.0 mmole, 228 mg | CC(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | allyl bromide | 1.5 mmole, 181.5 mg | C(C=C)Br | C3H5Br
reactant | n-hexane | CCCCCC | C6H14
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-Ferrocenyl-I-methyl-1,3-butadiene | yield of 91% | [C-]1(C=CC=C1)C(=CC=C)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C10H11.C5H5.Fe/c1-3-6-9(2)10-7-4-5-8-10;1-2-4-5-3-1;/h3-8H,1H2,2H3;1-5H;/q2*-1;+2
